US08008506B2
1-(2-Fluoro-4-hydroxyphenyl)-2-methylpropan-1-one
Under an argon atmosphere, dehydrated THF (5 mL; Manufactured by Kanto Chemical Co., Inc.) was added to 4-(tert-butyldimethylsilyloxy)-2-fluorobenzonitrile (14.02 g) that can be produced by the method described in Reference Example 1 or the like, and the mixture was cooled to 0° C. Subsequently, a 0.78 mol/L isopropylmagnesium bromide-THF solution (89 mL; manufactured by Kanto Chemical Co., Inc.) was added dropwise thereto. After completion of the dropwise addition, the reaction solution was stirred for 20 minutes while the temperature was raised to room temperature, copper bromide (140 mg; manufactured by Wako Pure Chemical Industries, Ltd.) was added thereto, and the reaction solution was stirred for 1.5 hours at 60° C. The reaction solution was cooled to 0° C., water (21.4 mL) and 5 mol/L hydrochloric acid (21.4 mL) were added thereto, and the reaction solution was stirred to 6 hours at 60° C. 5 mol/L hydrochloric acid (21 mL) was further added, and the reaction solution was stirred for 13 hours at 60° C. The reaction solution was cooled to room temperature, and was extracted three times with ethyl acetate. The organic layer was washed with water and brine, and was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and n-hexane was added to the residue. Precipitates were filtered, and thus the title compound (8.69 g) was obtained.

reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | 4-(tert-butyldimethylsilyloxy)-2-fluorobenzonitrile | 14.02 g | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C#N)C=C1)F | C13H18FNOSi
reactant | isopropylmagnesium bromide THF | 0.78 mol/L, 89 mL | C(C)(C)[Mg]Br.C1CCOC1
reactant | hydrochloric acid | 5 mol/L, 21.4 mL | Cl | ClH
reactant | hydrochloric acid | 5 mol/L, 21 mL | Cl | ClH
catalyst | copper bromide | 140 mg | [Cu](Br)Br
solvent | water | 21.4 mL | O | H2O
product | 1-(2-Fluoro-4-hydroxyphenyl)-2-methylpropan-1-one | 8.69 g | FC1=C(C=CC(=C1)O)C(C(C)C)=O | C10H11FO2
